US05714496
Triflic anhydride (2.82 g) was added dropwise to a mixture of 4-(1-imidazolyl)phenol (Aldrich Chemical Company) and triethylamine (1.1 g) in dichloromethane (30 ml). The mixture was stirred for 18 hours. The mixture was evaporated and the residue partitioned between diethyl ether and water. The organic phase was separated, washed with water, dried (MgSO4) and evaported. The residue was triturated with cyclohexane to give crude 4-(1-imidazolyl)phenyl triflate (1.7 g) as a solid, which was used without further purification; m/Z 293 (M+H).

reactant | Triflic anhydride | 2.82 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | 4-(1-imidazolyl)phenol | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | triethylamine | 1.1 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(1-imidazolyl)phenyl triflate | 1.7 g | O(S(=O)(=O)C(F)(F)F)C1=CC=C(C=C1)N1C=NC=C1 | C10H7F3N2O3S
